US04863920
6.78 g (20 mmol) of 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to 100° in a pressure tube overnight with 80 mg of bis-(triphenylphosphine)-palladium(II) dichloride, 30 mg of copper(I) iodide and about 2 ml of propyne in 60 ml of diethylamine. The reaction mixture was then evaporated and the residue was chromatographed on 300 g of silica gel while eluting with ethyl acetate. By recrystallization of the crude product from ethanol there was obtained 4,5-dihydro-5-methyl-3-(1-propynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 206°-207°.

reactant | 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 20 mmol, 6.78 g | IC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10IN3O
reactant | propyne | about 2 ml | C#CC | C3H4
solvent | diethylamine | 60 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 80 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 30 mg | [Cu]I
product | 4,5-dihydro-5-methyl-3-(1-propynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C#CC | C15H13N3O
